US05374615
4,4,4-Trifluoro-2-(hydroxyimino)-3-oxobutanoic acid, ethyl ester
A solution of sodium nitrite (0.29 mmol) in 35 mL of water was added dropwise over 50 minutes to a stirred, ice-cooled solution of 22.8 g of ethyl 4,4,4-trifluoroacetoacetate (0.12 mmol) in 30 mL of acetic acid. The reaction was continued for 2 hours, with gradual warming to 15° C. Water and acetic acid were removed under reduced pressure (azeotroped with toluene). The crude product was partitioned between ethyl acetate and saturated aqueous potassium hydrogen carbonate solution. The layers were separated. The ethyl acetate layer was washed with saturated aqueous potassium hydrogen carbonate solution and brine, dried over sodium sulfate and concentrated to yield 21.4 g of the title A compound as a light yellow oil.

reactant | sodium nitrite | 0.29 mmol | N(=O)[O-].[Na+]
reactant | ethyl 4,4,4-trifluoroacetoacetate | 0.12 mmol, 22.8 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
solvent | water | 35 mL | O | H2O
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 4,4,4-Trifluoro-2-(hydroxyimino)-3-oxobutanoic acid, ethyl ester | FC(C(C(C(=O)OCC)=NO)=O)(F)F | C6H6F3NO4
